US08877975B2
(1-(3,4-difluorophenyl)cyclohexyl)-N-methylmethanamine hydrochloride (81)
The title compound was synthesized from 1-(3,4-difluorophenyl)-cyclohexanecarbaldehyde (131 mg, 0.58 mmol) and methyl amine (320 μL, 0.64 mmol, 2.0 M in THF) according to General Procedure H, followed by HCl salt formation. The HCl salt was recrystallized from CH3CN to give pure (1-(3,4-difluorophenyl)cyclohexyl)-N-methylmethanamine hydrochloride as colorless crystals. HPLC Rt=8.15 min; 1H NMR (400 mHz, MeOH-d4) 7.36-7.21 (m, 3H), 3.11 (s, 2H), 2.55 (d, J=3.67 Hz, 3H), 2.15-2.12 (m, 2H), 1.67-1.31 (m, 8H); LC-MS 7.04 min, (M+1)+ 240 @ 7.19 min.

reactant | 1-(3,4-difluorophenyl)-cyclohexanecarbaldehyde | 0.58 mmol, 131 mg | FC=1C=C(C=CC1F)C1(CCCCC1)C=O | C13H14F2O
reactant | methyl amine | 0.64 mmol, 2.0 M, 320 μL | CN | CH5N
reactant | HCl | Cl | ClH
product | (1-(3,4-difluorophenyl)cyclohexyl)-N-methylmethanamine hydrochloride | Cl.FC=1C=C(C=CC1F)C1(CCCCC1)CNC | InChI=1S/C14H19F2N.ClH/c1-17-10-14(7-3-2-4-8-14)11-5-6-12(15)13(16)9-11;/h5-6,9,17H,2-4,7-8,10H2,1H3;1H
